US06015905
Dimethyl sulphate (0.65 ml, 6.9 mmol) was added dropwise to a mixture of (E)-methyl 2-[2-(6-trifluoromethylpyrid-2-yloxymethyl)phenyl]-3-hydroxyacrylate (2.12 g, 6 mmol) and anhydrous potassium carbonate (1.2 g, 8.7 mmol) in dry DMF (10 ml). After stirring at room temperature for 6 hours, the mixture was poured into water and extracted with diethyl ether. The ether extracts were washed with water, dried and concentrated to give a crude product which was purified by column chromatography (silica eluted with 20% ethyl acetate in hexane) to give (E)-methyl 2-[2-(6-trifluoromethylpyrid-2-yloxymethyl)phenyl]-3-methoxyacrylate (Compound No.177 in Table I of EP-A-0278595); (1.01 g, 46%) as a cream solid; mp 73-74° C.; 1H NMR (270 MHz)δ: 3.68(3H,s), 3.82(3H,s), 5.34(2H,s), 6.87(1H,d), 7.15-7.70(6H,m), 7.55(1H,s) ppm.

reactant | Dimethyl sulphate | 6.9 mmol, 0.65 ml | S(=O)(=O)(OC)OC | C2H6O4S
reactant | (E)-methyl 2-[2-(6-trifluoromethylpyrid-2-yloxymethyl)phenyl]-3-hydroxyacrylate | 6 mmol, 2.12 g | FC(C1=CC=CC(=N1)OCC1=C(C=CC=C1)/C(/C(=O)OC)=C\O)(F)F | C17H14F3NO4
reactant | potassium carbonate | 8.7 mmol, 1.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (E)-methyl 2-[2-(6-trifluoromethylpyrid-2-yloxymethyl)phenyl]-3-methoxyacrylate | FC(C1=CC=CC(=N1)OCC1=C(C=CC=C1)/C(/C(=O)OC)=C\OC)(F)F | C18H16F3NO4
